US06310247B1
A solution of dry ether (30 mL) and DMF (0.5 g, 7 mmol) was cooled to 15° C. and then treated with oxalyl chloride (0.2 g, 1.5 mmol) and stirred for 15 min. All solvent was then removed and dimethylchloroformamidinium chloride (Helv. Chim. Acta 42, 1653 (1959)) as a white solid was suspended in DMF (5 mL). To this was added (2E,4E,6Z)-7-(3,5-dibromophenyl)-3,7-dimethyl-2,4,6-heptatrienoic acid (0.30 g, 0.8 mmol) and the mixture was stirred at room temperature for 3-4 h. The reaction was cooled to 0° C. and treated over a 10 min period with a solution of O,N-bis(trimethylsilyl)-4-aminophenol (0.6 g, 2.4 mmol) in DMF (5 mL). Once the addition was complete stirring was continued for 1 h and then it was poured into 5% aqueous KF (10 mL) and stirred a further 1 h. The aqueous mixture was extracted with ether, purified by HPLC using 35% EtOAc/hexanes as eluent to give N-(4-hydroxyphenyl)-(2E,4E,6Z)-7-(3,5-dibromophenyl)-3,7-dimethyl-2,4,6-heptatrienamide.

reactant | oxalyl chloride | 1.5 mmol, 0.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2E,4E,6Z)-7-(3,5-dibromophenyl)-3,7-dimethyl-2,4,6-heptatrienoic acid | 0.8 mmol, 0.30 g | BrC=1C=C(C=C(C1)Br)\C(=C/C=C/C(=C/C(=O)O)/C)\C | C15H14Br2O2
reactant | O,N-bis(trimethylsilyl)-4-aminophenol | 2.4 mmol, 0.6 g | C[Si](OC1=CC=C(C=C1)N[Si](C)(C)C)(C)C | C12H23NOSi2
reactant | KF | 10 mL | [F-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 7 mmol, 0.5 g | CN(C)C=O | C3H7NO
solvent | ether | 30 mL | CCOCC | C4H10O
product | N-(4-hydroxyphenyl)-(2E,4E,6Z)-7-(3,5-dibromophenyl)-3,7-dimethyl-2,4,6-heptatrienamide | OC1=CC=C(C=C1)NC(\C=C(\C=C\C=C(\C)/C1=CC(=CC(=C1)Br)Br)/C)=O | C21H19Br2NO2
